US08835462B2
To a solution of tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (250 mg, 0.521 mmol, 1.00 equiv) in CH2Cl2 (5.2 mL, 0.1 M) at 0° C. (ice water bath) were added proton sponge (335 mg, 1.56 mmol, 3.00 equiv) and trimethyloxonium tetrafluoroborate (116 mg, 0.782 mmol, 1.50 equiv). The resulting white suspension was stirred at 0° C. for 30 minutes (min), removed from the cold bath and stirred at room temperature for 5 h, and then poured into ½ sat'd NaHCO3 solution (20 mL). The mixture was extracted with CH2Cl2 (3×20 mL), and the combined organic phases were washed with 1N HCl (20 mL), dried over Na2SO4, filtered, and concentrated to provide an oil. Purification by automated silica gel column chromatography provided tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-methoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (220 mg, 85%) as a colorless, sticky solid: IR (ATR) 2979, 2935, 2831, 1742, 1706, 1455, 1293, 1254, 1170, 1144, 1121, 1098, 1057, 913, 853, 732 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.32-7.24 (m, 2H), 7.22-7.15 (dd, J=5.1, 2.6 Hz, 3H), 5.18-5.06 (dd, J=8.6, 6.3 Hz, 1H), 4.94-4.79 (dq, J=9.1, 6.3 Hz, 1H), 4.16-4.01 (dd, J=11.8, 6.3 Hz, 1H), 3.94-3.76 (dd, J=11.8, 8.7 Hz, 1H), 3.59-3.50 (d, J=10.5 Hz, 1H), 3.50-3.45 (s, 3H), 1.50-1.45 (m, 21H), 3.42-3.32 (dd, J=10.8, 6.2 Hz, 1H), 3.14-3.01 (m, 2H), 2.47-2.31 (t, J=12.4 Hz, 1H), 2.08-1.89 (s, 1H), 1.53-1.43 (s, 18H); 13C NMR (101 MHz, CDCl3) δ 169.94, 152.62, 139.87, 129.25, 128.33, 126.03, 86.42, 83.03, 75.09, 70.91, 59.58, 57.42, 46.62, 35.15, 27.92, 18.92; HRMS-ESI (m/z) [M+Na]+ calc'd for C26H39NO8Na, 516.2568. found, 516.2572.

reactant | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 0.521 mmol, 250 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C25H37NO8
reactant | proton sponge | 1.56 mmol, 335 mg, 3.00 equiv | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 0.782 mmol, 116 mg, 1.50 equiv | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | 0.1 M, 5.2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-methoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 220 mg, 85% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OC)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C26H39NO8
